US06313118B1
N-(4-Morpholinophenyl)-8-(4-methylpiperazinyl)-5-methoxy-1,2,3,4-tetrahydronaphthalene-2-carboxamide
A solution of N-(4-morpholinophenyl)-8-amino-5-methoxy-1,2,3,4-tetrahydronaphthalene-2-carboxamide (1.4 g, 3.5 mmol), bis (2-chloroethyl)-methylamine hydrochloride (960 mg, 5 mmol) and sodium hydrogen carbonate (420 mg, 5 mmol) in n-butanol (30 mL) was heated at 90° C. for 5 h. After cooling, 2 M ammonium hydroxide (30 ml) was added and the mixture heated at 50° C. for 1 h. The phases were separated, evaporated in vacuo and purified by flash chromatography on a silica gel column with chloroform/ethanol/conc. ammonium hydroxide 90/10/0.3 as eluent. Yield: 320 mg (20%) of the title compound: mp 230-232° C.; EIMS (70 eV) m/z (relative intensity) 464 (75, M+).

reactant | N-(4-morpholinophenyl)-8-amino-5-methoxy-1,2,3,4-tetrahydronaphthalene-2-carboxamide | 3.5 mmol, 1.4 g | O1CCN(CC1)C1=CC=C(C=C1)NC(=O)C1CC2=C(C=CC(=C2CC1)OC)N | C22H27N3O3
reactant | bis (2-chloroethyl)-methylamine hydrochloride | 5 mmol, 960 mg | Cl.ClCCN(C)CCCl
reactant | sodium hydrogen carbonate | 5 mmol, 420 mg | C(O)([O-])=O.[Na+]
reactant | ammonium hydroxide | 2 M, 30 ml | [OH-].[NH4+]
solvent | n-butanol | 30 mL | C(CCC)O | C4H10O
product | N-(4-Morpholinophenyl)-8-(4-methylpiperazinyl)-5-methoxy-1,2,3,4-tetrahydronaphthalene-2-carboxamide | O1CCN(CC1)C1=CC=C(C=C1)NC(=O)C1CC2=C(C=CC(=C2CC1)OC)N1CCN(CC1)C | C27H36N4O3
